US08067590B2
1-{2-[4-(4-Hydroxy-piperidin-1-ylmethyl)-phenyl]-ethyl}-4-phenoxy-1H-pyridin-2-one is prepared as example 16.2c from 100 mg (0.26 mmol) 1-[2-(4-bromomethyl-phenyl)-ethyl]-4-phenoxy-1H-pyridin-2-one (example 16.2b) and 105 mg (1.04 mmol) 4-hydroxy-piperidine.

reactant | 16.2c | C1CCN(CC1)C(=S)CNCC2=CC3=C(C=C2)OCO3 | C15H20N2O2S
reactant | 1-[2-(4-bromomethyl-phenyl)-ethyl]-4-phenoxy-1H-pyridin-2-one | 0.26 mmol, 100 mg | BrCC1=CC=C(C=C1)CCN1C(C=C(C=C1)OC1=CC=CC=C1)=O | C20H18BrNO2
reactant | 4-hydroxy-piperidine | 1.04 mmol, 105 mg | OC1CCNCC1 | C5H11NO
product | 1-{2-[4-(4-Hydroxy-piperidin-1-ylmethyl)-phenyl]-ethyl}-4-phenoxy-1H-pyridin-2-one | OC1CCN(CC1)CC1=CC=C(C=C1)CCN1C(C=C(C=C1)OC1=CC=CC=C1)=O | C25H28N2O3
